US08003649B2
A solution of 3-bromopyridine (9.09 mL, 94.31 mmol) in diethyl ether (50 mL) was added dropwise to a stirred solution of 1.6M n-butyl lithium in hexane (58.9 mL, 94.31 mmol) in diethyl ether (500 mL) cooled to −78° C., over a period of 15 minutes under nitrogen. The resulting suspension was stirred at −78° C. for 1 hour. A solution of benzyl 4-oxopiperidine-1-carboxylate (20 g, 85.74 mmol) in diethyl ether (50 mL) and THF (50 mL) was added dropwise over 15 minutes. The reaction mixture was stirred at −78° C. for 1 hour, warmed to 0° C. over 2.5 hours and quenched with saturated ammonium chloride solution (500 ml). The mixture was extracted with ethyl acetate (2×500 mL) and the combined extracts were washed with brine (200 mL) then dried over MgSO4 and filtered through a short pad of silica. The silica pad was washed through with ethyl acetate (4×250 mL) and the filtrate was concentrated under vacuum. The residue was purified by flash silica chromatography eluting with ethyl acetate. Pure fractions were evaporated to dryness to afford benzyl 4-hydroxy-4-(pyridin-3-yl)piperidine-1-carboxylate (12.8 g, 48%) as an oil.

reactant | 3-bromopyridine | 94.31 mmol, 9.09 mL | BrC=1C=NC=CC1 | C5H4BrN
reactant | n-butyl lithium | 1.6M | C(CCC)[Li]
reactant | hexane | 94.31 mmol, 58.9 mL | CCCCCC | C6H14
reactant | benzyl 4-oxopiperidine-1-carboxylate | 85.74 mmol, 20 g | O=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H15NO3
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 500 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | benzyl 4-hydroxy-4-(pyridin-3-yl)piperidine-1-carboxylate | 12.8 g, 48% | OC1(CCN(CC1)C(=O)OCC1=CC=CC=C1)C=1C=NC=CC1 | C18H20N2O3
